US07429609B2
6-Fluoro-3-[(E)-2-(naphthalen-2-yl)-vinyl]-1H-indazole-5-carboxylic acid
To a suspension of 588 mg of 6-fluoro-3-[(E)-2-(naphthalen-2-yl)-vinyl]-1H-indazole-5-carbonitrile in 3 mL of acetic acid and 1 mL of water was added 3 mL of concentrated sulfuric acid, and stirred at 110° C. for 1 hours. After allowing to cool, the reaction solution was added with ice, and extracted with a mixed solvent of 30 mL ethyl acetate/15 mL tetrahydrofuran. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the resultant crude product was dissolved in 6 mL of 1,4-dioxane, added with 6 mL of 4N lithium hydroxide, and stirred at 120° C. for 15 hours. The reaction solution was made acidic with 5N hydrochloric acid, and then extracted with a mixed solvent of 30 mL ethyl acetate/20 mL tetrahydrofuran. The organic layer was washed successively with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated, to afford 477 mg of the title compound as ocher crystals.

reactant | 6-fluoro-3-[(E)-2-(naphthalen-2-yl)-vinyl]-1H-indazole-5-carbonitrile | 588 mg | FC1=C(C=C2C(=NNC2=C1)\C=C\C1=CC2=CC=CC=C2C=C1)C#N | C20H12FN3
reactant | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | water | 1 mL | O | H2O
product | 6-Fluoro-3-[(E)-2-(naphthalen-2-yl)-vinyl]-1H-indazole-5-carboxylic acid | 477 mg | FC1=C(C=C2C(=NNC2=C1)\C=C\C1=CC2=CC=CC=C2C=C1)C(=O)O | C20H13FN2O2
